US04889953
1-O-(12-Cyclohexyl)dodecyl-3-O-[2-(2-hydroxyethoxy)ethyl]-2-O-methylglycerol
2.03 g (19.2 millimole) of diethylene glycol was dissolved in 10 ml of dimethylsulfoxide (DMSO), to which 0.576 g (14.4 millimole) of 60% sodium hydride was added, and the mixture was stirred at 75° C. for 1 hour. The mixture was cooled to room temperature, to which 1.93 g (4.62 millimole) of 1-O-(12-cyclohexyl)dodecyl-3-O-mesyl-2-O-methylglycerol in 5 ml of DMSO was added, and the reaction mixture was stirred at 75° C. for 1 hour. After the reaction, 20 ml of ice water and 50 ml of hexane-ethyl acetate (1:1) mixture were added to the reaction mixture, and the upper layer was separated after shaking thoroughly. The aqueous layer was extracted with 20 ml of hexane-ethyl acetate (1:1), and the organic layers were combined, washed with water and dried (MgSO4), followed by evaporation of the solvent. The residue was subjected to silica gel (60 g) column chromatography, and eluted with hexane-ethyl acetate (1:1), to give 1.0 g (49%) of the above-captioned compound as colorless oil.

reactant | diethylene glycol | 19.2 millimole, 2.03 g | C(COCCO)O | C4H10O3
reactant | sodium hydride | 14.4 millimole, 0.576 g | [H-].[Na+]
reactant | 1-O-(12-cyclohexyl)dodecyl-3-O-mesyl-2-O-methylglycerol | 4.62 millimole, 1.93 g | C1(CCCCC1)CCCCCCCCCCCCOCC(OC)COS(=O)(=O)C | C23H46O5S
reactant | hexane ethyl acetate | 50 ml | CCCCCC.C(C)(=O)OCC
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 1-O-(12-Cyclohexyl)dodecyl-3-O-[2-(2-hydroxyethoxy)ethyl]-2-O-methylglycerol | 1.0 g, 49% | C1(CCCCC1)CCCCCCCCCCCCOCC(OC)COCCOCCO | C26H52O5
